US05332829
It known that the condensation of thiophene-2-carbaldehyde with hydantoin gives 5-(2-thenylidene) hydantoin, which can then be reduced either into 5-(2-thenyl) hydantoin, with a yield of 75% by sodium amalgam in a petroleum ether (G. BARGER and A. EASSON, J. Chem. Soc. 1938, 2100), or directly into β 2-thienyl alanine, with a yield of 72% by using ammonium sulphide (V. du VIGNEAUD et al, J. Biol. Chem., 159, 385-94, 1945).

reactant | thiophene-2-carbaldehyde | S1C(=CC=C1)C=O | C5H4OS
reactant | hydantoin | N1C(=O)NC(=O)C1 | C3H4N2O2
product | 5-(2-thenylidene) hydantoin | yield of 75% | C1(=CC=CS1)C=C1C(NC(N1)=O)=O | C8H6N2O2S
